US07842830B2
1,2-Bis[4-(4-trifluoromethylphenylethynyl)phenyl]ethane-1,2-dione (JYC-I-120-B).
In a glove box, a schlenk tube was charged with Pd(PhCN)2Cl2 (63 mg, 0.16 mmol) and CuI (21 mg, 0.11 mmol). Under argon counterflow, anhydrous dioxane (50 mL), P(t-Bu)3 (2.7 mL of 0.123 M solution in toluene, 0.33 mmol), HN(i-Pr)2 (1.8 mL, 13 mmol), 4,4′-dibromobenzil (2.0 g, 5.4 mmol), and 4-ethynyl-α,α,α-trifluorotoluene (2.31 g, 13.6 mmol) were added to the schlenk tube sequentially. After stirring at room temperature overnight, the reaction mixture was diluted with ethyl acetate and filtered through a pad of celite with EtOAc rinsing. The solvent was removed under reduced pressure and the product was purified by column chromatography (silica gel, hexanes:dichloromethane=3:1 (v/v), then hexanes:dichloromethane=1:1 (v/v)) to give light yellow needles (2.20 g, 74%). 1H NMR (300 MHz, CDCl3, δ): 7.98 (d, J=8.3 Hz, 4H), 7.64 (d, J=8.3 Hz, 2H), 7.64-7.60 (m, 8H). HRMS-FAB (m/z): [M+H]+ calcd for C32H17O2F6, 547.1133; found, 547.1146. Anal. Calcd for C32H16F6O2: C, 70.33; H, 2.95; F, 20.86. Found: C, 70.07; H, 2.81; F, 20.71.

reactant | dioxane | 50 mL | O1CCOCC1 | C4H8O2
reactant | HN(i-Pr)2 | 13 mmol, 1.8 mL | N(C(C)C)C(C)C | C6H15N
reactant | 4,4′-dibromobenzil | 5.4 mmol, 2.0 g | BrC1=CC=C(C=C1)C(=O)C(=O)C1=CC=C(C=C1)Br | C14H8Br2O2
reactant | 4-ethynyl-α,α,α-trifluorotoluene | 13.6 mmol, 2.31 g | C(#C)C1=CC=C(C=C1)C(F)(F)F | C9H5F3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd(PhCN)2Cl2 | 0.16 mmol, 63 mg | C1=CC=C(C=C1)C#N.C1=CC=C(C=C1)C#N.Cl[Pd]Cl
catalyst | CuI | 0.11 mmol, 21 mg | [Cu]I
catalyst | P(t-Bu)3 | 0.33 mmol, 0.123 M, 2.7 mL | P(C(C)(C)C)(C(C)(C)C)C(C)(C)C | C12H27P
product | 1,2-Bis[4-(4-trifluoromethylphenylethynyl)phenyl]ethane-1,2-dione | 2.20 g, 74% | FC(C1=CC=C(C=C1)C#CC1=CC=C(C=C1)C(C(=O)C1=CC=C(C=C1)C#CC1=CC=C(C=C1)C(F)(F)F)=O)(F)F | C32H16F6O2
